US07732460B2
(b) 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{[(4R/S)-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl}-4-piperidinyl)carbamate
A mixture of [(4R/S)-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl 4-methylbenzenesulfonate (100 mg, 0.25 mmol), 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate (84 mg, 0.24 mmol) (for a synthesis, see WO2004058144, Example 99(h)), sodium carbonate (77 mg, 0.7 mmol) and ethanol (2.5 ml) was stirred at room temperature overnight then evaporated under vacuum. The residue was treated with water and the mixture extracted twice with dichloromethane. The combined organic extracts were dried over magnesium sulphate and evaporated under vacuum. The residue was chromatographed on silica eluting with 0-100% ethyl acetate in dichloromethane then 0-10% methanol in ethyl acetate affording a yellow oil (88 mg, 64%).

reactant | [(4R/S)-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl 4-methylbenzenesulfonate | 0.25 mmol, 100 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CN2C=3C1=C(C=NC3C=CC2=O)F)O | C18H15FN2O5S
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate | 0.24 mmol, 84 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | sodium carbonate | 0.7 mmol, 77 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{[(4R/S)-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl}-4-piperidinyl)carbamate | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CC2(CN1C=3C2=C(C=NC3C=CC1=O)F)O | C29H34FN5O6
